US07282588B2
1,1-dimethylethyl 4-{5-[4-[1-methyl-3-(4-nitrophenyl)-1H-pyrazol-4-yl]-1-(phenylsulfonyl)-1H-pyrrolo[2,3-b]pyridin-2-yl]-2-pyrimidinyl}-1-piperazinecarboxylate
To a solution of 2-iodo-4-[1-methyl-3-(4-nitrophenyl)-1H-pyrazol-4-yl]-1-(phenylsulfonyl)-1H-pyrrolo[2,3-b]pyridine (0.321 mmol) and 1,1-dimethylethyl 4-[5-(4,4,5,5-tetramethyl-1,3,2-dioxaborolan-2-yl)-2-pyrimidinyl]-1-piperazinecarboxylate (0.353 mmol) in 1,4-dioxane (3 ml) was added saturated NaHCO3(aq) (0.85 ml). After degassing with argon for 10 minutes, dichlorobis(triphenylphosphine) palladium(II) (0.0161 mmol) was added and the resulting mixture was heated at 95° C. overnight. Upon cooling, the reaction was concentrated and partitioned between EtOAc and H2O. The organic layer was washed with brine, dried (MgSO4), filtered and concentrated to yield the title compound as a yellow oil (quant.). ESMS [M+H]+: 722.2.

reactant | 2-iodo-4-[1-methyl-3-(4-nitrophenyl)-1H-pyrazol-4-yl]-1-(phenylsulfonyl)-1H-pyrrolo[2,3-b]pyridine | 0.321 mmol | IC1=CC=2C(=NC=CC2C=2C(=NN(C2)C)C2=CC=C(C=C2)[N+](=O)[O-])N1S(=O)(=O)C1=CC=CC=C1 | C23H16IN5O4S
reactant | 1,1-dimethylethyl 4-[5-(4,4,5,5-tetramethyl-1,3,2-dioxaborolan-2-yl)-2-pyrimidinyl]-1-piperazinecarboxylate | 0.353 mmol | CC1(OB(OC1(C)C)C=1C=NC(=NC1)N1CCN(CC1)C(=O)OC(C)(C)C)C | C19H31BN4O4
reactant | NaHCO3 | 0.85 ml | C(=O)(O)[O-].[Na+]
solvent | 1,4-dioxane | 3 ml | O1CCOCC1 | C4H8O2
product | 1,1-dimethylethyl 4-{5-[4-[1-methyl-3-(4-nitrophenyl)-1H-pyrazol-4-yl]-1-(phenylsulfonyl)-1H-pyrrolo[2,3-b]pyridin-2-yl]-2-pyrimidinyl}-1-piperazinecarboxylate | CN1N=C(C(=C1)C1=C2C(=NC=C1)N(C(=C2)C=2C=NC(=NC2)N2CCN(CC2)C(=O)OC(C)(C)C)S(=O)(=O)C2=CC=CC=C2)C2=CC=C(C=C2)[N+](=O)[O-] | C36H35N9O6S
